US08183380B2
rac-1-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-3-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-urea
The title compound was prepared in accordance with the general method 4 described in example 16 from bis(trichloromethyl) carbonate, 1-(2-methoxy-ethyl)-piperidin-4-ylamine and rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine; MS: m/e=504.5 (M+H+).

reactant | bis(trichloromethyl) carbonate | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | 1-(2-methoxy-ethyl)-piperidin-4-ylamine | COCCN1CCC(CC1)N | C8H18N2O
reactant | rac-N2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-yl)-quinoline-2,6-diamine | COC=1C=CC=C2CCCC(C12)NC1=NC2=CC=C(C=C2C=C1)N | C20H21N3O
product | rac-1-[1-(2-Methoxy-ethyl)-piperidin-4-yl]-3-[2-(8-methoxy-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-quinolin-6-yl]-urea | COCCN1CCC(CC1)NC(=O)NC=1C=C2C=CC(=NC2=CC1)NC1CCCC2=CC=CC(=C12)OC | C29H37N5O3
